US06740647B1
c) 5-Hydroxymethyl-4-methylthiophene-3-carbonitrile
2.44 g (64 mmol) of lithium aluminum hydride were added portionwise at 0° C. to a solution of 25.1 g (129 mmol) of ethyl 3-cyano-4-methylthiophene-5-carboxylate in 400 ml of tetrahydrofuran. The mixture was stirred for 5 hours at room temperature, excess reducing agent was destroyed by adding 0.5 N hydrochloric acid, and the reaction mixture was concentrated under a water pump vacuum, diluted with water and extracted three times with ethyl acetate. The combined organic phases were then washed in each case once with 0.5 N hydrochloric acid and saturated sodium chloride solution. The organic phase was dried over magnesium sulfate, the desiccant was filtered off, and the solvent was distilled off under a water pump vacuum at room temperature. The residue was purified by column chromatography (eluant dichloromethane/methanol 95:5), and 16.1 g (83%) of the desired compound were obtained as a slightly yellow oil.

reactant | lithium aluminum hydride | 64 mmol, 2.44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-cyano-4-methylthiophene-5-carboxylate | 129 mmol, 25.1 g | C(#N)C1=CSC(=C1C)C(=O)OCC | C9H9NO2S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 5-Hydroxymethyl-4-methylthiophene-3-carbonitrile | 16.1 g, 83% | OCC1=C(C(=CS1)C#N)C | C7H7NOS
